US09238640B2
Preparation of N-(1-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)azetidin-3-yl)acetamide
To a suspension of N-azetidin-3-yl-acetamide (0.30 g crude, 1.99 mmol) and 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.43 g, 1.00 mmol) in anhydrous DMF (10 mL) was added triethylamine (3 mL). The reaction mixture was stirred at room temperature for 3 days under nitrogen. Solvent was evaporated under reduced pressure, water (50 mL) was added, and the precipitated solid was filtered. The aqueous phase was extracted with ethyl acetate (2×100 mL). The organic phase was dried over anhydrous Na2SO4. Solvent was evaporated, and crude compound was purified by the Simpliflash system (0-5% 7 N ammonia in methanol and CH2Cl2 as eluent) to give the title compound as a white solid. Yield: 0.30 g (63%). MP 111.8-113.6° C. 1H NMR (400 MHz, CDCl3): δ 9.60 (br s, 1H), 7.69 (s, 2H), 6.82 (d, J=2.34 Hz, 1H), 6.46 (d, J=2.34 Hz, 1H), 6.10 (d, J=7.81 Hz, 1H), 4.71-4.44 (m, 1H), 3.97 (s, 3H), 3.93 (s, 3H), 3.85-3.67 (m, 4H), 3.26-3.13 (m, 2H), 2.90 (t, J=5.46 Hz, 2H), 2.36 (s, 6H), 2.01 (s, 3H). MS (ES+) m/z: 467.20 (M+1).

reactant | N-azetidin-3-yl-acetamide | 1.99 mmol, 0.30 g | N1CC(C1)NC(C)=O | C5H10N2O
reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 1.00 mmol, 0.43 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H21BrN2O4
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(1-(2-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)-2,6-dimethylphenoxy)ethyl)azetidin-3-yl)acetamide | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(OCCN2CC(C2)NC(C)=O)C(=C1)C)C)=O | C25H30N4O5
